US09085576B2
Step 3: 5-Chloro-2-methoxypyrido[3,4-b]pyrazine
To a solution of 2,5-dichloropyrido[3,4-b]pyrazine (580 mg, 2.90 mmol) in N,N-dimethylformamide (10 mL) was added a 0.5-M solution of sodium methoxide in methanol (6.09 mL, 3.04 mmol), and the reaction was stirred at RT for 5 minutes. The solution was diluted with water and extracted with ethyl acetate. The organic layer was dried with sodium sulfate, filtered and concentrated to afford the title compound (550 mg, 2.81 mmol). MS m/z=196 (M+H)+.

reactant | 2,5-dichloropyrido[3,4-b]pyrazine | 2.90 mmol, 580 mg | ClC=1N=C2C(=NC1)C(=NC=C2)Cl | C7H3Cl2N3
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 3.04 mmol, 6.09 mL | CO | CH4O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Chloro-2-methoxypyrido[3,4-b]pyrazine | 2.81 mmol, 550 mg | ClC1=NC=CC=2C1=NC=C(N2)OC | C8H6ClN3O
